US06531491B1
6-(1-(3-Acetamido-phenyl)-vinyl)-3-styryl-1H-indazole
6-(1-(3-Aminophenyl)-vinyl)-3-styryl-1-[2-trimethylsilanyl-ethoxymethyl]-1H-indazole was converted to 6-(1-(3-acetamido-phenyl)-vinyl)-3-styryl-1-[2-trimethylsilanyl-ethoxymethyl]-1H-indazole as described for Example 12(a): Rf sm 0.42, p 0.26 (ethyl acetate-hexane 4:6); FTIR (thin film) 3305, 3059, 2952, 1667, 1608, 1585, 1555, 1486, 1448, 1433, 1369, 1306, 1249, 1076, 912, 859, 836, 748, 693 cm−1; 1H NMR (300 MHz, CDCl3) δ 7.98 (d, 1H, J=8.5 Hz), 7.7-7.4 (m, 9H), 7.35 (m, 2H), 7.26 (dd, 1H, J=1.3, 8.4 Hz), 7.16 (bd, 1H, J=7.8 Hz), 5.75 (s, 2H), 5.62 (s, 1H), 5.61 (s, 1H), 3.66 (t, 2H, J=8.2 Hz), 2.16 (s, 3H), 0.98 (t, 2H, J=8.2 Hz), −0.02 (s, 9H); 13C NMR (75 MHz, CDCl3) δ 169.8, 150.9, 144.6, 143.5, 142.8, 142.0, 139.4, 138.6, 132.9, 130.3, 129.3, 127.9, 125.6, 124.2, 123.7, 122.0, 121.3, 121.0, 117.1, 110.8,68.0,25.8, 19.1, 0.0; HRMS (FAB) [M+Na]/z Calc'd 532.2396, found 532.2410.

reactant | 6-(1-(3-Aminophenyl)-vinyl)-3-styryl-1-[2-trimethylsilanyl-ethoxymethyl]-1H-indazole | NC=1C=C(C=CC1)C(=C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C29H33N3OSi
reactant | 6-(1-(3-acetamido-phenyl)-vinyl)-3-styryl-1-[2-trimethylsilanyl-ethoxymethyl]-1H-indazole | C(C)(=O)NC=1C=C(C=CC1)C(=C)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C31H35N3O2Si
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 6-(1-(3-Acetamido-phenyl)-vinyl)-3-styryl-1H-indazole | C(C)(=O)NC=1C=C(C=CC1)C(=C)C1=CC=C2C(=NNC2=C1)C=CC1=CC=CC=C1 | C25H21N3O
